US07026352B1
(8E,12E,14E)-7-Acetoxy-3-ethoxyacetylacetoxy-6,21-dihydroxy-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide (Compound B26)
Ethoxyacetylacetic acid was esterified with (8E,12E,14E)-7-acetoxy-6,21-bis(1-ethoxyethoxy)-3-hydroxy-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide through the similar synthetic route as Example B24, to give the title compound as a colorless oil.

reactant | Ethoxyacetylacetic acid | C(C)OCC(=O)CC(=O)O | C6H10O4
reactant | (8E,12E,14E)-7-acetoxy-6,21-bis(1-ethoxyethoxy)-3-hydroxy-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide | C(C)(=O)OC\1C(CCC(CC(=O)OC(C(/C=C1)C)\C(=C\C=C\C(CC1C(C(C(CC)OC(C)OCC)C)O1)C)\C)O)(C)OC(C)OCC | C38H64O10
product | (8E,12E,14E)-7-Acetoxy-3-ethoxyacetylacetoxy-6,21-dihydroxy-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide | C(C)(=O)OC\1C(CCC(CC(=O)OC(C(/C=C1)C)\C(=C\C=C\C(CC1C(C(C(CC)O)C)O1)C)\C)OC(CC(COCC)=O)=O)(C)O | C36H56O11
